### PR TITLE
characterization of limit_point using infinite_set

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

another characterization of limit point using infinite sets

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

~~- [ ] added corresponding documentation in the headers~~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/normedtype_theory/normed_module.v [hunk 1]
```diff
@@ -1036,6 +1036,68 @@ move=> n; have : nbhs (x : T) (U n).
...
 Unshelve. all: by end_near. Qed.
 
+Lemma limit_point_infinite_setP {R : archiRealFieldType} (E : set R) (a : R) :
+  limit_point E a <-> (forall U, nbhs a U -> infinite_set (U `&` E)).
+Proof.
+split=> [Ea V aV|]; last first.
+  move=> aE U /aE /infiniteP /pcard_leP /injfunPex[/= f funf injf].
+  have [f0a|f0a] := eqVneq (f O) a; last first.
+    by exists (f 0); have /= [Uf0 Ef0]:= funf 0 Logic.I.
+  have /= [Uf1 Ef1]:= funf 1 Logic.I.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
    by exists (f 0); case: (funf 0 Logic.I).
  have [Uf1 Ef1]:= funf 1 Logic.I.
```
golfing

File: theories/normedtype_theory/normed_module.v [hunk 2]
```diff
@@ -1036,6 +1036,68 @@ move=> n; have : nbhs (x : T) (U n).
...
+  exists (f 1); split => //; apply/eqP => f1a.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
  exists (f 1); split=> //; apply/eqP => f1a.
```

File: theories/normedtype_theory/normed_module.v [hunk 3]
```diff
@@ -1036,6 +1036,68 @@ move=> n; have : nbhs (x : T) (U n).
...
+pose r_ (x : elt_type) := (proj1_sig x).1.
+(* two successive (a_i, r_i) and (a_j, r_j) satisfy the relation: *)
+pose elt_rel i j := `|a - r_ i| = a_ j /\ ball a (a_ j) `<=` ball a (a_ i) /\
+  `|a - r_ j| < `|a - r_ i| /\ r_ i != r_ j.
+move: aV => -[r0/= r0_gt0 ar0V].
+pose V0 : set R := ball a r0.
+move/limit_pointP : Ea => [y_ [y_E y_neq_a y_cvg_a]].
+have [a0 [a0a a0V0 a0E]] : exists a0, [/\ a0 != a, a0 \in V0 & a0 \in E].
+  move/cvgrPdist_lt : y_cvg_a => /(_ _ r0_gt0)[M _ May_r0].
+  exists (y_ M); split => //.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
  exists (y_ M); split=> //.
```

File: theories/normedtype_theory/normed_module.v [hunk 4]
```diff
@@ -1036,6 +1036,68 @@ move=> n; have : nbhs (x : T) (U n).
...
+  - by apply/mem_set; rewrite /V0 /ball/= May_r0/=.
+  - by apply/mem_set/y_E; exists M.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
  - by apply/mem_set/May_r0 => /=.
  - by apply/mem_set/y_E/imageT.
```
golfing

File: theories/normedtype_theory/normed_module.v [hunk 5]
```diff
@@ -1036,6 +1036,68 @@ move=> n; have : nbhs (x : T) (U n).
...
+    apply: subset_trans ariV => z /lt_le_trans; apply.
+    by move: aiari; rewrite inE /ball/= => /ltW.
+  have y_MVj : y_ M \in Vj.
+    rewrite inE /Vj /ball/= /rj (@lt_le_trans _ _ rj)//.
+    by apply: May_rj => /=.
+  have y_ME : y_ M \in E by rewrite inE; apply: y_E; exists M.
+  exists (exist _ (y_ M, rj) (And5 VjV y_ME y_MVj rj_gt0 (y_neq_a M))) => /=.
+  split; first exact.
+  split; rewrite /a_ /r_/=.
+    by apply: le_ball; move: aiari; rewrite inE /ball/= => /ltW.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
    apply: subset_trans ariV => z /lt_trans; apply.
    by move: aiari; rewrite inE.
  have y_MVj : y_ M \in Vj.
    rewrite inE; apply: (@lt_le_trans _ _ rj)//.
    by apply: May_rj => /=.
  have y_ME : y_ M \in E by rewrite inE; apply/y_E/imageT.
  exists (exist _ (y_ M, rj) (And5 VjV y_ME y_MVj rj_gt0 (y_neq_a M))) => /=.
  split; first exact.
  split; rewrite /a_ /r_/=.
    by apply: le_ball; move: aiari; rewrite inE => /ltW.
```
golfing

File: theories/normedtype_theory/normed_module.v [hunk 6]
```diff
@@ -1036,6 +1036,68 @@ move=> n; have : nbhs (x : T) (U n).
...
+  split; first by move: y_MVj; rewrite inE.
+  by apply/eqP => aiyM; move: y_MVj; rewrite -aiyM inE /Vj /ball/= /rj ltxx.
+apply/infiniteP/pcard_leP/injfunPex => /=; exists (r_ \o v).
+  move=> n _; rewrite /r_ /=.
+  case: (v n) => -[ai ri] [/= ariV /set_mem Eai /set_mem aiari _ _].
+  by split => //; exact: ariV.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
  by case: (v n) => -[ai ri] [/= ariV /set_mem Eai /set_mem/ariV aiari _ _].
```
golfing

File: theories/normedtype_theory/normed_module.v [hunk 7]
```diff
@@ -1036,6 +1036,68 @@ move=> n; have : nbhs (x : T) (U n).
...
+have arv q p : (p < q)%N -> `|a - r_ (v q)| < `|a - r_ (v p)|.
+  elim: q p => [[]//|q ih p].
+  rewrite ltnS leq_eqVlt => /predU1P[ ->|/ih].
+    by case: (Pv q) => _ [] _ [].
+  by apply: le_lt_trans; case: (Pv q) => _ [] _ [] /ltW.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
  by rewrite ltnS leq_eqVlt => /predU1P[->|/ih]; last apply: lt_trans;
    by case: (Pv q) => _ [] _ [].
```
golfing

File: theories/normedtype_theory/normed_module.v [hunk 8]
```diff
@@ -1036,6 +1036,68 @@ move=> n; have : nbhs (x : T) (U n).
...
+move=> p q _ _ /=; apply: contraPP => /eqP.
+by rewrite neq_lt => /orP[] /arv; rewrite ltNge => /negP + H; apply; rewrite H.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
by rewrite neq_lt => /orP[] /arv /[swap] ->; rewrite ltxx.
```

File: theories/normedtype_theory/normed_module.v [hunk 9]
```diff
@@ -1036,6 +1036,68 @@ move=> n; have : nbhs (x : T) (U n).
...
+Unshelve. all: by end_near. Qed.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
Qed.
```
